US08859580B2
(3H-Benzoimidazol-5-yl)-[(2R,6R,11S)-8-methoxy-6,11-dimethyl-7-pyrrol-1-yl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl]-methanone
A solution of [(2R,6R,11S)-7-amino-8-methoxy-6,11-dimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl]-(3H-benzoimidazol-5-yl)-methanone (150 mg) and 2,5-dimethoxy-tetrahydrofuran (50 μL) in acetic acid (2 mL) is stirred at 110° C. for 3 h. After cooling to ambient temperature, the solution is diluted with water and extracted with ethyl acetate. The combined organic extracts are washed with brine and dried (MgSO4). Then, the solvent is removed to afford the title compound as a foam-like solid.

reactant | [(2R,6R,11S)-7-amino-8-methoxy-6,11-dimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl]-(3H-benzoimidazol-5-yl)-methanone | 150 mg | NC1=C(C=CC=2C[C@H]3N(CC[C@@](C21)([C@@H]3C)C)C(=O)C3=CC2=C(N=CN2)C=C3)OC | C23H26N4O2
reactant | 2,5-dimethoxy-tetrahydrofuran | 50 μL | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | (3H-Benzoimidazol-5-yl)-[(2R,6R,11S)-8-methoxy-6,11-dimethyl-7-pyrrol-1-yl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl]-methanone | N1=CNC2=C1C=CC(=C2)C(=O)N2[C@@H]1CC3=C([C@](CC2)([C@@H]1C)C)C(=C(C=C3)OC)N3C=CC=C3 | C27H28N4O2
